2181-04-21 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Phenobarbital
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-21**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 84 (82 - 98) bpm
   BP: 89/62(69) {88/52(62) - 102/68(94)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     60 mL
                                                                    247 mL
   PO:
             80 mL
   TF:
   IVF:
                                                                     60 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                  1,010 mL
   Urine:
                                                                    460 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -763 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: 72 y/o F in NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL. Pupils reactive. L pupil larger
   than R pupil (chronic change after pt's head injury). Conjunctiva were
   pink, no pallor or cyanosis of the oral mucosa.
   NECK: Supple. No significant JVD noted.
   CARDIAC: RRR, 3/6 systolic murmur loudest at the RUSB.
   LUNGS: Pt developed SOB when trying to sit up; no respiratory distress
   when lying flat. Lungs CTA anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Bowel sounds present.
   EXTREMITIES: 2+ pitting edema in the bilateral lower extremities. No
   calf pain noted. DP pulses palpated bilaterally.
   Labs / Radiology
   293 K/uL
   10.3 g/dL
   146 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   43 mg/dL
   97 mEq/L
   132 mEq/L
   30.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2181-4-21**]  03:49 AM
   WBC
   5.5
   Hct
   30.9
   Plt
   293
   Cr
   1.1
   TropT
   <0.01
   Glucose
   146
   Other labs: PT / PTT / INR:47.0/32.9/5.1, CK / CKMB /
   Troponin-T:37//<0.01, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   72 year-old female with PMHx of DM, aortic stenosis, dCHF, and new
   diagnosis of atrial fibrillation who was admitted from cardiology
   clinic for CHF exacerbation and transferred to the CCU for atrial
   fibrillation with RVR.
   .
   # Atrial Fibrillation - Pt arrived on the floor and developed RVR with
   inability to sustain a normal blood pressure. The floor team was
   limited in their use of metoprolol because of the patient's
   hypotension. She underwent cardioversion on the floor and then was
   transferred to the CCU for furhter monitoring. She is now in sinus
   rhythm.
   - continue telemetry
   - holding coumadin in the setting of supratherapeutic INR
   - checking TSH
   - complete ROMI
   - continue amiodarone gtt
   .
   # Acute on Chronic Heart Failure - Likely related to pt's atrial
   fibrillation. As above, pt is s/p cardioversion on the floor. Now on a
   lasix gtt.
   - lasix gtt for goal UOP 75 cc/hr
   - repeat echo in AM
   - strict I/O's
   - daily weights
   .
   # Acute Renal Failure - Pt had a bump in her creatinine in the setting
   of starting lasix. ?Pre-renal in the setting of diuresis. Creatinine
   resolving now.
   - continue to trend creatinine
   - holding metformin and lisinopril
   .
   # Diabetes - On metformin at home.
   - holding metformin for now
   - ISS
   .
   # Hypothyroidism - Not entirely clear on home dose.
   - need to clarify home dose
   - holding thyroid hormone for now
   - checking TSH, as above
   .
   # Dyslipidemia - continue atorvastatin
   .
   # Hypertension - holding lisinopril, as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-4-20**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: supratherapeutic INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-04-22 07:10:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -converted amiodarone to PO
   -called out to [**Hospital1 1276**]
   -9:30 p.m. - Afib/RVR to 140s-150s, SBP 80s-90s, symptomatic with
   fatigue, shortness of breath. Performed cardioversion. Returned to
   sinus rhythm with 1 shock.
   -10 p.m., complains of nausea, EKG unchanged, enzymes negative; nausea
   partially relieved with Zofran. Gave Compazine.
   -3 a.m., back in Afib/RVR. SBP in 80s. Gave digoxin 0.25 mg IV and NS
   250 cc x 3
   Allergies:
   Penicillins
   Unknown;
   Phenobarbital
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-22**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 139 (81 - 148) bpm
   BP: 83/57(63) {71/36(32) - 124/90(99)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.2 kg (admission): 70.8 kg
             Total In:
                                                                  1,542 mL
                                                                    751 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                    262 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    570 mL
   Urine:
                                                                  3,715 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,173 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   GENERAL: NAD.
   CARDIAC: RRR, 3/6 systolic murmur loudest at the RUSB.
   LUNGS: No respiratory distress. Breath sounds mildly diminished at
   bases.
   ABDOMEN: Soft, NTND. Bowel sounds present.
   EXTREMITIES: 2+ pitting edema in the bilateral lower extremities.
   Labs / Radiology
   224 K/uL
   10.2 g/dL
   146 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.4 mEq/L
   39 mg/dL
   99 mEq/L
   134 mEq/L
   31.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2181-4-21**]  03:49 AM
                             [**2181-4-21**]  10:50 PM
                             [**2181-4-22**]  04:47 AM
   WBC
   5.5
   5.4
   Hct
   30.9
   31.2
   Plt
   293
   224
   Cr
   1.1
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   146
   146
   Other labs: PT / PTT / INR:33.5/30.9/3.4, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   72 year-old female with PMHx of DM, aortic stenosis, dCHF, and new
   diagnosis of atrial fibrillation who was admitted from cardiology
   clinic for CHF exacerbation and transferred to the CCU for atrial
   fibrillation with RVR.
   .
   # Atrial Fibrillation - Pt arrived on the floor and developed RVR with
   inability to sustain a normal blood pressure. The floor team was
   limited in their use of metoprolol because of the patient's
   hypotension. She underwent cardioversion on the floor and then was
   transferred to the CCU for further monitoring. In the CCU, she had two
   episodes of Afib/RVR during the night of [**4-21**] to [**4-22**], the with first
   episode treated by cardioversion and the second episode treated with
   digoxin. TSH 0.39. MI ruled out with 3 sets of enzymes.
   - on PO amiodarone
 will increase dose
   - stop digoxin
   - continue telemetry
   - holding coumadin in the setting of supratherapeutic INR
   - monitor INR
   .
   # Acute on Chronic Heart Failure - Likely related to pt's atrial
   fibrillation. Treat Afib as above.
   - treat Afib as above
   .
   # Acute Renal Failure - Pt had a bump in her creatinine in the setting
   of starting lasix. Likely pre-renal. Creatinine improved at 1.1 but
   still above baseline of 0.7.
   - continue to trend creatinine
   - holding metformin and lisinopril
   .
   # Nausea: Patient had nausea s/p cardioversion. Likely related to
   anesthesia with etomidate. Received Zofran and compazine.
   .
   # Diabetes - On metformin at home.
   - holding metformin for now
   - insulin sliding scale
   .
   # Hypothyroidism - Not entirely clear on home dose. TSH 0.39.
   - need to clarify home dose and likely decrease dose
   - holding thyroid hormone for now
   .
   # Dyslipidemia - continue simvastatin
   .
   # Hypertension - holding lisinopril, as above
   ICU Care
   Nutrition: Lactose restricted, Cardiac/Heart healthy , No chocolate or
   Soy, Gluten-free diet
   Glycemic Control: insulin sliding scale
   Lines:
   20 Gauge - [**2181-4-20**] 10:00 PM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2181-04-23 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2181-4-23**] 03:33 AM
   Overnight Events:
   - Afib with RVR to 130 at 3am
   - Fluid bolus 250ml
   - increased amnio to 400TID
   - Holding coumadin given INR 3.4. Restart coumadin at 1/2 dose on
   restarting as amnio potentiates.
   - levothyroxine held, confirm prior levo dosing on Monday.
   - ativan 0.25mg x 2 for insomnia.
   Allergies:
   Penicillins
   Unknown;
   Phenobarbital
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-23**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 101 (77 - 139) bpm
   BP: 104/81(86) {77/38(49) - 104/81(86)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.2 kg (admission): 70.8 kg
             Total In:
                                                                    991 mL
                                                                    250 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    751 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    240 mL
   Urine:
                                                                  3,410 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,419 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   10.7 g/dL
   110 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.7 mEq/L
   28 mg/dL
   103 mEq/L
   138 mEq/L
   32.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2181-4-21**]  03:49 AM
                             [**2181-4-21**]  10:50 PM
                             [**2181-4-22**]  04:47 AM
                             [**2181-4-23**]  02:49 AM
   WBC
   5.5
   5.4
   6.6
   Hct
   30.9
   31.2
   32.4
   Plt
   293
   224
   277
   Cr
   1.1
   1.1
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   146
   146
   110
   Other labs: PT / PTT / INR:24.0/27.9/2.3, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   72 year-old female with PMHx of DM, aortic stenosis, dCHF, and new
   diagnosis of atrial fibrillation who was admitted from cardiology
   clinic for CHF exacerbation and transferred to the CCU for atrial
   fibrillation with RVR.
   .
   # Atrial Fibrillation - Pt arrived on the floor and developed RVR with
   inability to sustain a normal blood pressure. The floor team was
   limited in their use of metoprolol because of the patient's
   hypotension. She underwent cardioversion on the floor and then was
   transferred to the CCU for further monitoring. In the CCU, she had two
   episodes of Afib/RVR during the night of [**4-21**] to [**4-22**], the with first
   episode treated by cardioversion and the second episode treated with
   digoxin. TSH 0.39. MI ruled out with 3 sets of enzymes.
   - on PO amiodarone
 will increase dose
   - stop digoxin
   - continue telemetry
   - holding coumadin in the setting of supratherapeutic INR
   - monitor INR
   .
   # Acute on Chronic Heart Failure - Likely related to pt's atrial
   fibrillation. Treat Afib as above.
   - treat Afib as above
   .
   # Acute Renal Failure - Pt had a bump in her creatinine in the setting
   of starting lasix. Likely pre-renal. Creatinine improved at 1.1 but
   still above baseline of 0.7.
   - continue to trend creatinine
   - holding metformin and lisinopril
   .
   # Nausea: Patient had nausea s/p cardioversion. Likely related to
   anesthesia with etomidate. Received Zofran and compazine.
   .
   # Diabetes - On metformin at home.
   - holding metformin for now
   - insulin sliding scale
   .
   # Hypothyroidism - Not entirely clear on home dose. TSH 0.39.
   - need to clarify home dose and likely decrease dose
   - holding thyroid hormone for now
   .
   # Dyslipidemia - continue simvastatin
   .
   # Hypertension - holding lisinopril, as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-4-20**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-04-24 07:23:00 Physician Resident Progress Note
Chief Complaint: Admitted to [**Hospital1 5**] from [**Hospital **] clinic with CHF
   exacerbation, initially admitted to F3 where triggered for AFib with
   RVR for which she received lopressor 2.5 mg, became hypotensive to
   80
s.  DCCV to NSR, started on amio gtt and transferred to CCU.  Amio
   transitioned to po amiodarone.  Had an episode of AF with RVR,
   requiring DC/CV on [**4-21**]; amiodarone dosing now TID. [**4-22**] lasix gtt
   discontinued [**3-13**] rise in Cr.
   24 Hour Events:
   -had some runs in 130s, tolerated BP wise, asymptomatic
   -restarted coumadin
   - rescheduled outpt nuclear stress
   - repeat CXR: There has been no appreciable interval change. Left
   infrahilar atelectasis and small bilateral pleural effusions persist.
   Heart size is top normal. Multiple right rib fractures are chronic. No
   pneumothorax.
   - HR better controlled, mostly in 100-120s
   - pt having issues coping with her recent diagnoses; put in SW consult
   Allergies:
   Penicillins
   Unknown;
   Phenobarbital
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:occaisional short lived palpitations, no CP, light
   headedness, OOB to chair, bathroom
   Flowsheet Data as of  [**2181-4-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 107 (87 - 122) bpm
   BP: 100/62(68) {86/45(57) - 112/87(97)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.4 kg (admission): 70.8 kg
                  Total In:
                                                                  1,650 mL
                                                                    180 mL
   PO:
                                                                  1,400 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    785 mL
   Urine:
                                                                  2,005 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                   -605 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   GENERAL: NAD.
   CARDIAC: irregularly irregular, 3/6 systolic murmur heard throughout
   precordium, hard to localize given Afib, seems loudest at L/R USB.
   LUNGS: lungs bibasilar crackles, mild expiratory wheeze
   ABDOMEN: Soft, NTND. Bowel sounds present.
   EXTREMITIES: 2+ pitting edema in the bilateral lower extremities.
   Warm, pulses palpable.
   Labs / Radiology
   256 K/uL
   10.9 g/dL
   129 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.5 mEq/L
   27 mg/dL
   101 mEq/L
   136 mEq/L
   34.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2181-4-21**]  03:49 AM
                             [**2181-4-21**]  10:50 PM
                             [**2181-4-22**]  04:47 AM
                             [**2181-4-23**]  02:49 AM
                             [**2181-4-24**]  01:43 AM
   WBC
   5.5
   5.4
   6.6
   7.5
   Hct
   30.9
   31.2
   32.4
   34.5
   Plt
   293
   224
   277
   256
   Cr
   1.1
   1.1
   1.0
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   146
   146
   110
   129
   Other labs: PT / PTT / INR:19.1/26.4/1.7, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANXIETY
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
   72 year-old female with PMHx of DM, aortic stenosis, dCHF, and new
   diagnosis of atrial fibrillation who was admitted from cardiology
   clinic for CHF exacerbation and transferred to the CCU for atrial
   fibrillation with RVR.
   .
   # Atrial Fibrillation - Pt arrived on the floor and developed RVR with
   inability to sustain a normal blood pressure. The floor team was
   limited in their use of metoprolol because of the patient's
   hypotension. She underwent cardioversion on the floor and then was
   transferred to the CCU for further monitoring. In the CCU, she had
   add
l episodes of Afib/RVR, treated by cardioversion once, digoxin
   once, and multiple fluid boluses. Last episode RVR [**4-22**] which resolved
   with fluid boluses. TSH 0.39. MI ruled out with 3 sets of enzymes. HR
   well controlled ranging 80s to 120s, improved from 130s previously. Pt
   complains only of occaissional short lived palpitations
   -continue
 dose Coumadin (2.5mg) restarted y/d INR 1.7 today goal [**3-14**],
   continue to monitor INR
   -amnio loading with amniodorone 400MG TID
   -continue to hold metoprolol (MAPS 68)
   -Getting OOB to chair/BR, get OOB/walking, assess HR response on
   telemetry
   -possible plan for repeat cardioversion this week
   .
   # Acute on Chronic Heart Failure
EF 50%.  Likely related to pt's
   atrial fibrillation. Had been initially diuresed a little but not much
   given RVR and has had multiple fluid boluses. CXR no improvement, still
   evidence of overload on exam. Now with BP
s tolerating would resume
   lasix drip. MAPS 60
s to 70s from 50
s to 60s. Would resume lasix drip
   for gentler diuresis, no big volume changes. UOP has been 80cc/hr
   without lasix gtt. Negative 400cc/24.
   - treat Afib as above
   .lasix drip, goal 500-1L
   -[**Hospital1 **] lytes
   .
   # Moderate AS (area 1.0-1.2cm2) Trace AR: Last Echo [**10-18**]
EF 50%
   Can tolerate gentle diuresis.
   .
   # Acute Renal Failure - Pt had a bump in her creatinine in the setting
   of starting lasix. Likely pre-renal. Creatinine improved at 0.9 but
   still above baseline of 0.7.
   -lasix bolus
   -[**Hospital1 **] lytes
   - continue to trend creatinine
   - holding metformin and lisinopril
   .
   # Diabetes - On metformin at home.
   - holding metformin for now
   - insulin sliding scale
   .
   # Hypothyroidism - Not entirely clear on home dose. TSH 0.39.
   - need to clarify home dose and likely decrease dose
   - holding thyroid hormone for now given amniodorone loading
   .
   # Dyslipidemia - continue simvastatin
   .
   # Hypertension
 Normotensive this morning; borderline hypotensive
   overnight.
   - holding lisinopril, as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-4-20**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ICU Care
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff note
   nothing to add
   Physical Examination
   per housestaff note
   nothing to add
   Medical Decision Making
   per housestaff note
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Improving - rate better controlled
   will plan on cardioversion later this week
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **],MD
   on:[**2181-4-24**] 10:52 ------

2181-04-25 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   -gave lasix 20 mg PO, with good urine response
   -ordered sarna for itchy back
   -d/c'ed Foley
   -started Lovenox bridge
   Allergies:
   Penicillins
   Unknown;
   Phenobarbital
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-4-25**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 112 (89 - 116) bpm
   BP: 92/66(78) {92/56(67) - 116/86(89)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.6 kg (admission): 70.8 kg
                  Total In:
                                                                  1,380 mL
                  PO:
                                                                  1,380 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    250 mL
   Urine:
                                                                  2,235 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -855 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD.
   CARDIAC: irregularly irregular, 3/6 systolic murmur heard throughout
   precordium, hard to localize given Afib, seems loudest at L/R USB.
   LUNGS: lungs bibasilar crackles, mild expiratory wheeze
   ABDOMEN: Soft, NTND. Bowel sounds present.
   EXTREMITIES: 2+ pitting edema in the bilateral lower extremities.
   Warm, pulses palpable.
   Labs / Radiology
   268 K/uL
   11.9 g/dL
   136 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.4 mEq/L
   28 mg/dL
   99 mEq/L
   137 mEq/L
   36.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2181-4-21**]  03:49 AM
                             [**2181-4-21**]  10:50 PM
                             [**2181-4-22**]  04:47 AM
                             [**2181-4-23**]  02:49 AM
                             [**2181-4-24**]  01:43 AM
                             [**2181-4-25**]  04:25 AM
   WBC
   5.5
   5.4
   6.6
   7.5
   7.9
   Hct
   30.9
   31.2
   32.4
   34.5
   36.6
   Plt
   293
   224
   277
   256
   268
   Cr
   1.1
   1.1
   1.0
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   146
   146
   110
   129
   136
   Other labs: PT / PTT / INR:18.9/30.9/1.7, CK / CKMB /
   Troponin-T:32//<0.01, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   72 year-old female with PMHx of DM, aortic stenosis, dCHF, and new
   diagnosis of atrial fibrillation who was admitted from cardiology
   clinic for CHF exacerbation and transferred to the CCU for atrial
   fibrillation with RVR.
   .
   # Atrial Fibrillation - Pt arrived on the floor and developed RVR with
   inability to sustain a normal blood pressure. The floor team was
   limited in their use of metoprolol because of the patient's
   hypotension. She underwent cardioversion on the floor and then was
   transferred to the CCU for further monitoring. In the CCU, she had
   add
l episodes of Afib/RVR, treated by cardioversion once, digoxin
   once, and multiple fluid boluses. Last episode RVR [**4-22**] which resolved
   with fluid boluses. TSH 0.39. MI ruled out with 3 sets of enzymes. HR
   well controlled ranging 80s to 120s, improved from 130s previously. Pt
   complains only of occaissional short lived palpitations
   -continue
 dose Coumadin (2.5mg) restarted y/d INR 1.7 today goal [**3-14**],
   continue to monitor INR
   -amnio loading with amniodorone 400MG TID
   -continue to hold metoprolol (MAPS 68)
   -Getting OOB to chair/BR, get OOB/walking, assess HR response on
   telemetry
   -possible plan for repeat cardioversion this week
   .
   # Acute on Chronic Heart Failure
EF 50%.  Likely related to pt's
   atrial fibrillation. Had been initially diuresed a little but not much
   given RVR and has had multiple fluid boluses. CXR no improvement, still
   evidence of overload on exam. Now with BP
s tolerating would resume
   lasix drip. MAPS 60
s to 70s from 50
s to 60s. Would resume lasix drip
   for gentler diuresis, no big volume changes. UOP has been 80cc/hr
   without lasix gtt. Negative 400cc/24.
   - treat Afib as above
   .lasix drip, goal 500-1L
   -[**Hospital1 **] lytes
   .
   # Moderate AS (area 1.0-1.2cm2) Trace AR: Last Echo [**10-18**]
EF 50%
   Can tolerate gentle diuresis.
   .
   # Acute Renal Failure - Pt had a bump in her creatinine in the setting
   of starting lasix. Likely pre-renal. Creatinine improved at 0.9 but
   still above baseline of 0.7.
   -lasix bolus
   -[**Hospital1 **] lytes
   - continue to trend creatinine
   - holding metformin and lisinopril
   .
   # Diabetes - On metformin at home.
   - holding metformin for now
   - insulin sliding scale
   .
   # Hypothyroidism - Not entirely clear on home dose. TSH 0.39.
   - need to clarify home dose and likely decrease dose
   - holding thyroid hormone for now given amniodorone loading
   .
   # Dyslipidemia - continue simvastatin
   .
   # Hypertension
 Normotensive this morning; borderline hypotensive
   overnight.
   - holding lisinopril, as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-4-23**] 04:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor